US07153875B2
To a solution of ethyl 6-[3-bromo-4,5-methylenedioxyphenyl]-2-naphthoate (18.32 g, 45.90 mmol) in 308 mL toluene at −78° C. under an atmosphere of argon was added DIBAL (92 mL, 1.5 M in toluene, 137.7 mmol) dropwise. After 1 hour the reaction mixture was quenched with ethyl acetate and the resulting mixture was allowed to warm to RT. The mixture was diluted with ethyl acetate and washed with 5% NH4Cl, water and brine. The organics were dried with magnesium sulfate, filtered and evaporated. The residue was passed through a short silica gel column (eluent: CH2Cl2) to give 16.40 g of 6-[3-bromo-4,5-methylenedioxyphenyl]-naphthalen-2-yl-methyl alcohol (100%). 1H NMR (300 MHz; CDCl3): δ 4.85 (s, 2H), 6.01 (s, 2H), 6.88 (s, 1H), 7.13 (s, 1H), 7.47 (dd, J1=4.0 Hz, J2=1.8 Hz, 1H), 7.50 (dd, J1=4.0 Hz, J2=1.8 Hz, 1H), 7.76–7.85 (m, 4H).

reactant | ethyl 6-[3-bromo-4,5-methylenedioxyphenyl]-2-naphthoate | 45.90 mmol, 18.32 g | BrC=1C=C(C=C2C1OCO2)C=2C=C1C=CC(=CC1=CC2)C(=O)OCC | C20H15BrO4
reactant | DIBAL | 137.7 mmol, 1.5 M, 92 mL | CC(C)C[AlH]CC(C)C
solvent | toluene | 308 mL | C1(=CC=CC=C1)C | C7H8
product | 6-[3-bromo-4,5-methylenedioxyphenyl]-naphthalen-2-yl-methyl alcohol | 16.40 g, 100% | BrC=1C=C(C=C2C1OCO2)C=2C=C1C=CC(=CC1=CC2)CO | C18H13BrO3
